US07629349B2
tert-Butyl 6-amino-4-chloro-1H-pyrazolo[3,4-d]pyrimidine-1-carboxylate
A solution of 2-amino-4-chloro-1H-pyrazolo[3,4-d]pyrimidine (848 mg, 5 mmol) in DMF (5 mL) was treated with Et3N (834 μL, 6 mmol), di-t-butyl dicarbonate (1.31 g, 6 mmol) and a catalytic amount of DMAP, stirred at room temperature for 1 h, poured into water, extracted with EtOAc, dried (MgSO4), concentrated in vacuo and purified by chromatography (EtOAc:Heptane, 1:1) to give the title compound (312 mg, 23%) as a cream solid.

reactant | 2-amino-4-chloro-1H-pyrazolo[3,4-d]pyrimidine | 5 mmol, 848 mg | NN1NC2=NC=NC(=C2C1)Cl | C5H6ClN5
reactant | Et3N | 6 mmol, 834 μL | CCN(CC)CC | C6H15N
reactant | di-t-butyl dicarbonate | 6 mmol, 1.31 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | tert-Butyl 6-amino-4-chloro-1H-pyrazolo[3,4-d]pyrimidine-1-carboxylate | 312 mg, 23% | NC1=NC(=C2C(=N1)N(N=C2)C(=O)OC(C)(C)C)Cl | C10H12ClN5O2
